US05039331
Preparation of 4-chloro-2-fluoro-5-hydroxyphenylisothiocyanate
1.00 g of 4-chloro-2-fluoro-5-hydroxyaniline was dissolved in 10 ml of ethyl acetate, and 0.61 ml of thiophosgene was dropwise added at 0° C. After the dropwise addition, the temperature was raised to room temperature, and the mixture was refluxed. After refluxing for 6 hours, ethyl acetate was distilled off to obtain a crude product of crystals. This crude product was washed with hexane to obtain 0.70 g of the above-identified compound as gray crystals.

reactant | 4-chloro-2-fluoro-5-hydroxyaniline | 1.00 g | ClC1=CC(=C(N)C=C1O)F | C6H5ClFNO
reactant | thiophosgene | 0.61 ml | C(=S)(Cl)Cl | CCl2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-fluoro-5-hydroxyphenylisothiocyanate | 0.70 g | ClC1=CC(=C(C=C1O)N=C=S)F | C7H3ClFNOS
